US08044206B2
Under argon atmosphere, 3 ml of propionitrile was added to a mixture of 339 mg of tert-butyl 4-[(E)-2-(4-bromo-2,6-dimethylphenyl)vinyl]piperidine-1-carboxylate, 89 mg of sodium cyanide, 53 mg of tetrakistriphenylphosphine palladium and 17 mg of copper iodide, followed by heating under reflux for 7 hours. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and the residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give 299 mg of tert-butyl 4-[(E)-2-(4-cyano-2,6-dimethylphenyl)vinyl]piperidine-1-carboxylate.

reactant | propionitrile | 3 ml | C(CC)#N | C3H5N
reactant | tert-butyl 4-[(E)-2-(4-bromo-2,6-dimethylphenyl)vinyl]piperidine-1-carboxylate | 339 mg | BrC1=CC(=C(C(=C1)C)/C=C/C1CCN(CC1)C(=O)OC(C)(C)C)C | C20H28BrNO2
reactant | sodium cyanide | 89 mg | [C-]#N.[Na+]
catalyst | copper iodide | 17 mg | [Cu](I)I
solvent | Water | O | H2O
product | tert-butyl 4-[(E)-2-(4-cyano-2,6-dimethylphenyl)vinyl]piperidine-1-carboxylate | 299 mg | C(#N)C1=CC(=C(C(=C1)C)/C=C/C1CCN(CC1)C(=O)OC(C)(C)C)C | C21H28N2O2
